US04883799
The solution of 942 mg (1.35 mm) of diethyl N-[4-{1-(tetrahydropyr-2-yloxy)-3-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamate in 40 ml of 0.1N methanolic hydrogen chloride was stirred at ambient temperatures for 2 hours. The reaction mixture was neutralized with a solution of 205 mg of sodium carbonate in 10 ml of water and most of methanol was removed by evaporation under reduced pressure. One hundred milliliters of methylene chloride were added the solution was washed twice with 20 ml of water, dried over anhydrous magnesium sulfate, and concentrated. The residue was triturated with 1:2 ethyl acetate and ether, filtered, and dried to give 810 mg (98%) of diethyl N-[4-{1-hydroxy-3-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamate. mp 133°-135° C. Analysis calculated for C31H43N5O8 : C, 60.67; H, 7.06; N, 11.41. Found: C, 60.42; H, 7.09; N, 11.34. NMR (CDCl3), delta, 1.22 (t, 3H, J=7 Hz), 1.26 (s, 9H), 1.30 (t, 3H, J=7 Hz), 1.78-1.87 (m, 3H), 2.01-2.23 (m, 3H), 2.23-2.36 (m, 1H), 2.38-2.54 (m, 2H), 2.59-2.69) (m, 1H), 2.83-3.12 (m, 2H), 3.14-3.18 and 3.28-3.32 (m, m, 1H), 3.72-3.78 (m, 2H), 4.12 (q, 2H, J=7 Hz), 4.23 (q, 2H, J=7 Hz), 4.74-4.84 (m, 2H, CH, NH), 7.24 (d, NH, J=7 Hz), 7.26-7.30 (m, 1H), 7.72-7.76 (m, 1H), 8.09 (brs, NH), 11.23 (brs, NH).

reactant | diethyl N-[4-{1-(tetrahydropyr-2-yloxy)-3-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamate | 942 mg | O1C(CCCC1)OCC(CC1CC2=C(N=C(N=C2O)NC(C(C)(C)C)=O)NC1)C1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C36H51N5O9
reactant | sodium carbonate | 205 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | CO | CH4O
solvent | hydrogen chloride | 0.1N, 40 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | diethyl N-[4-{1-hydroxy-3-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamate | 810 mg, 98% | OCC(CC1CC2=C(N=C(N=C2O)NC(C(C)(C)C)=O)NC1)C1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C31H43N5O8
